US07396958B2
[4-chloro-2-(2-chlorobenzyl)phenyl]amine
To 10 g of (2-amino-5-chlorophenyl) (2-chlorophenyl)methanone dissolved in 100 ml of dichloromethane are added at room temperature 18.7 ml of triethylsilane and 14.4 ml of trifluoroborane etherate, and the mixture is refluxed for 18 hours and then maintained at room temperature for 72 hours. The resulting mixture is hydrolysed with 2M sodium hydroxide solution, and the phases are separated by settling. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with a cyclohexane/ethyl acetate solvent mixture to give 4.46 g of the expected product.

reactant | (2-amino-5-chlorophenyl) (2-chlorophenyl)methanone | 10 g | NC1=C(C=C(C=C1)Cl)C(=O)C1=C(C=CC=C1)Cl | C13H9Cl2NO
reactant | triethylsilane | 18.7 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroborane | 14.4 ml | FB(F)F | BF3
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | [4-chloro-2-(2-chlorobenzyl)phenyl]amine | 4.46 g | ClC1=CC(=C(C=C1)N)CC1=C(C=CC=C1)Cl | C13H11Cl2N
